US07994185B2
Step B: N-[2-Fluoro-3-(2-(1-methylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-3-pyridinesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide (150 mg, 0.306 mmol) and isobutylamine (0.307 mL, 3.06 mmol). the title compound was obtained as a white solid (105 mg, 65% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.53 (s, 1H), 8.83 (d, J=2.2 Hz, 1H), 8.73 (dd, J=4.8, 1.0 Hz, 1H), 8.03-8.13 (m, 1H), 7.99 (d, J=5.1 Hz, 1H), 7.53 (dd, J=8.1, 4.9 Hz, 1H), 7.31-7.41 (m, 1H), 7.09-7.33 (m, 3H), 5.67-5.93 (m, 1H), 3.14-3.25 (m, 1H), 2.84-3.09 (m, 2H), 1.69-1.87 (m, 1H), 1.30 (d, J=6.9 Hz, 6H), 0.81 (d, J=5.3 Hz, 6H). MS (ESI): 527.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide | 0.306 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1)F | C21H17ClFN5O2S2
reactant | isobutylamine | 3.06 mmol, 0.307 mL | C(C(C)C)N | C4H11N
product | N-[2-Fluoro-3-(2-(1-methylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)phenyl]-3-pyridinesulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)C(C)C)NS(=O)(=O)C=1C=NC=CC1 | C25H27FN6O2S2
